US07060827B2
2,4-Dichloro-5-fluoropyrimidine (50 mg, 0.30 mmol) was dissolved in a mixture of MeOH (1 ml) and H2O (0.1 ml). 3-amino-4-methylaniline (146 mg, 1.2 mmol) was added and the mixture was refluxed for 20 hours (70° C. oil-bath temperature). The mixture was cooled to 22° C., concentrated to dryness under reduced pressure and subjected to column chromatography on silica gel (CHCl3-Acetone, 2:1) to give N2,N4-bis(3-amino-4-methylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.11 (d, 1H, J=5.1 Hz), 7.98 (bs, 1H) (7.68 (dd, 1H, J=2.4, 8.1 Hz), 7.40–7.55 (m, 4H), 2.43 (s, 3H), 2.42 (s, 3H); LCMS: purity: 95.0%; MS (m/e): 338.66 (M+, 70).

reactant | 2,4-Dichloro-5-fluoropyrimidine | 0.30 mmol, 50 mg | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-amino-4-methylaniline | 1.2 mmol, 146 mg | NC=1C=C(N)C=CC1C | C7H10N2
solvent | MeOH | 1 ml | CO | CH4O
solvent | H2O | 0.1 ml | O | H2O
product | N2,N4-bis(3-amino-4-methylphenyl)-5-fluoro-2,4-pyrimidinediamine | NC=1C=C(C=CC1C)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)C)N)F | C18H19FN6
